US04666502
2-Methylthio-4-methyl-3-aminothiophene
6 g (0.22 gram atoms) freshly prepared aluminium amalgam are added over a period of about two minutes to 18.9 g (0.1 mol) of 2-methylthio-4-methyl-3-nitrothiophene dissolved in 200 ml of moist diethylether. The vigorous reaction which sets in after 5-10 minutes is kept under control by cooling the flask in ice.

reactant | 2-methylthio-4-methyl-3-nitrothiophene | 0.1 mol | CSC=1SC=C(C1[N+](=O)[O-])C | C6H7NO2S2
solvent | diethylether | 200 ml | C(C)OCC | C4H10O
product | 2-Methylthio-4-methyl-3-aminothiophene | CSC=1SC=C(C1N)C | C6H9NS2
